US06169091A
A mixture of 1,3 dibromo-5,5-dimethylhydantoin (11.5 g, 40.2 mmol), a,a-difluorotoluene (prepared by the published method of W. J. Middleton, J. Org. Chem., 1975, 40, p574) (7.0 g, 55 mmol) and AIBN (0.25 g) in CCl4 (300 ml) was heated at reflux for 10 h while being irradiated (tungsten filament lamp, 500W). The mixture was then diluted with petrol and the remaining precipitate removed by filtration. The filtrate was then evaporated and the resulting oil chromatographed (silica, petrol) to give a-bromo-a, a-difluorotoluene (5.5 g, 50%) as a colourless oil; δH [2H6]-DMSO 7.68 (2H, d, J 8, 2-H, 6-H), 7.62-7.55 (3H, m, 3-H, 4-H, 5-H); dC [2H3]-CDCl3 138.3 (triplet, J 23, 1-C), 131.2 (4-C), 128.6 (3-C and 5-C), 124.3 (2-C and 6-C), 118.6 (triplet, J 300, CBrF2). This 13C data agrees with that published by A. Haas et al., Chem Ber., 1988, 121, p1329. 4-Nitrophenol (16.6 g, 0.119 mol) was added to a stirred solution of potassium hydroxide (7.0 g, 0.13 g) in absolute ethanol (50 ml) and the mixture was heated at reflux for 30 min. Diethyl ether was then added to this yellow mixture and the resulting yellow precipitate collected by filtration to give potassium 4-nitrophenoxide (19.5 g, 93%) as a bright yellow solid, which was used directly in the next step. A stirred mixture of potassium 4-nitrophenoxide (5.47 g, 31 mmol) and a-bromo-a,a-difluorotoluene (3.2 g, 15 mmol) in dry DMF (30 ml) under N2 was heated at 78-80° C. for 8 h. The mixture was then concentrated in vacuo to remove most of the DMF, and the residue was partitioned between aq. sat. sodium bicarbonate (30 ml) and dichloromethane. The organic layer was separated and the water layer further extracted with dichloromethane (2×50 ml). The combined organics were washed with water and dried over Na2SO4. The solvents were then evaporated in vacuo and the residue chromatographed (silica, 10% diethyl ether/petrol) to give 4-(a,a-difluorobenzyloxy)nitrobenzene (2.7 g, 67%) as a white crystalline solid, m.p. 46-48° C.; δH [2H6]-DMSO 8.80 (2H, d, J 9, 2-H, 6-H), 7.78 (2H, d, J 9, 2′-H, 6′-H), 7.65-7.55 (5H, m, 3-H, 5-H, 3′-H, 4′-H, 5′-H); m/z (%) 265 (39, M+), 246 (44), 127 (100). A solution of 4-(a,a-difluorobenzyloxy)nitrobenzene (0.65 g, 2.5 mmol) in a mixture of ethyl acetate (25 ml) and methanol (25 ml) was carefully added to 10% palladium on charcoal (50 mg). The resulting suspension was stirred at r.t.p. under an atmosphere of hydrogen. When the reaction was complete (as indicated by tlc and calculated uptake of hydrogen) the suspension was filtered through a pad of hyflo and the filtrate evaporated to dryness to give 4-(a,a-difluorobenzyloxy)aniline (0.56 g, 98%) as an off-white solid; δH [2H6]-DMSO 7.75 (2H, d, J 7, 2′-H, 6′-H), 7.62 (3H, m, 3′-H, 4′-H, 5′-H), 7.00 (2H, d, J 7, 2-H, 6-H), 6.60 (2H, d, J 7, 3-H, 5-H), 5.10 (2H, br s, NH2); m/z (%) 235 (95, M+), 127 (100). 4-Chlorothieno[3,2-d]pyrimidine (0.049 g, 0.29 mmol) and 4-(a,a-difluorobenzyloxy)aniline (0.085 g, 0.36 mmol) were reacted in 2-propanol (5 ml) for 30 minutes according to Procedure A. The white solid obtained was 4-(4-(a,a-difluorobenzyloxy)anilino)thieno[3,2-d]pyrimidine hydrochloride (0.053 g, 36%), m.p. 265° C. (dec); (Found: C, 56.57; H, 3.47, N, 10.42. C19H13N3SOF2.HCl requires: C, 56.23; H, 3.48; N, 10.35%); δH [2H6]-DMSO 11.25 (1H, br s, NH), 8.88 (1H, s, 2-H), 8.50 (1H, d, J 5, 6-H or 7-H), 7.80-7.73 (4H, m, 2′-H, 6′-H, 2″-H, 6″-H); 7.67-7.55 (4H, m, 3″-H, 4″-H, 5″-H and (6-H or 7-H)), 7.40 (2H, d, J 9, 3′-H, 5′-H); m/z (%) 369 (60, M+), 242 (100); nmax (KBr disc)/cm−1 2550, 1630, 1591, 1504, 1468, 1321.

reactant | potassium 4-nitrophenoxide | 31 mmol, 5.47 g | [N+](=O)([O-])C1=CC=C([O-])C=C1.[K+]
reactant | a-bromo-a,a-difluorotoluene | 15 mmol, 3.2 g | BrC(C1=CC=CC=C1)(F)F | C7H5BrF2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-(a,a-difluorobenzyloxy)nitrobenzene | 2.7 g, 67% | FC(C1=CC=CC=C1)(OC1=CC=C(C=C1)[N+](=O)[O-])F | C13H9F2NO3
